US07166609B2
b) 6-(4-Fluoro-3-methylbenzylcarbamoyl)pyrimdine-4-carboxylic acid
8.75 g (0.02 mol) of methyl 6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carboxylate (70%) were taken up in 150 ml of ethanol, after which 1.89 g (0.022 mol) of NaOH in 6 ml of water were added. After 3 hours (h) at room temperature, the solvent was removed under reduced pressure and water was added to the residue; the solution was then brought to pH <2 with conc. HCl. The precipitate was filtered off with suction and dried. This resulted in 5.5 g (94%) of 6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carboxylic acid. MS (ES+): m/e=289.09.

reactant | methyl 6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carboxylate | 0.02 mol, 8.75 g | FC1=C(C=C(CNC(=O)C2=CC(=NC=N2)C(=O)OC)C=C1)C | C15H14FN3O3
reactant | NaOH | 0.022 mol, 1.89 g | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 6-(4-Fluoro-3-methylbenzylcarbamoyl)pyrimdine-4-carboxylic acid | FC1=C(C=C(CNC(=O)C2=CC(=NC=N2)C(=O)O)C=C1)C | C14H12FN3O3
